US08835602B2
A. Synthesis of Boc-Ala-Ala-NH—(CH2)3—OH
To a vigorously stirring solution of Boc-(Ala)2-OH (1.55 gm, 5.96 mmol) and NMM (0.98 mL, 8.9 mmol) in THF (15 mL) cooled to −15° C. was added under an atmosphere of N2 ethyl chloroformate (ECF) (587 μL, 6.14 mmol). After stirring for 2 min, a solution of H2N(CH2)3OH (546 uL, 7.2 mmol) in THF (5 mL) was added to the mixture followed by NMM (1.64 mL, 14.9 mmol) and the mixture was warmed to r.t. and stirred until silica gel TLC indicated complete consumption of the starting acid (eluting solvent-MeOH:DCM—1:10, Rf—0.5) (˜8 h). The solvent was evaporated, and the residue was diluted with EtOAc and washed with brine, water, saturated solutions of citric acid and NaHCO3, and the organic layer was dried using NaHSO4, and the solvent was removed under vacuum to yield a residue which was purified using silica gel flash column chromatography—Hexanes:EtOAc—1:4; to give the desired product in 84% yield (1.59 g) as a solid, m.p.—142° C.

reactant | Boc-(Ala)2-OH | 5.96 mmol, 1.55 gm | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C11H20N2O5
reactant | NMM | 8.9 mmol, 0.98 mL | CN1CCOCC1 | C5H11NO
reactant | H2N(CH2)3OH | 7.2 mmol, 546 uL | NCCCO | C3H9NO
reactant | NMM | 14.9 mmol, 1.64 mL | CN1CCOCC1 | C5H11NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Boc-Ala-Ala-NH—(CH2)3—OH | 84% yield | N([C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCO)C(=O)OC(C)(C)C | C14H27N3O5
